*****************************************************************
* NXP PSMN012-25YLC
*
* Polarity N-Channel
* Ratings 25V/1.260000E-002OHMS/33A
*
* Date Created Tue Sep 06 08:16:20 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN012-25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00877635497232804 TC=0.00456748214439581,4.43480290354005E-06
RBD 9 4 0.00385734847305037 TC=0.00456748214439581,4.43480290354005E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.7e-10
RG 1 2 2.09583376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	466
+ -10	466
+ -5	463
+ -4	460
+ -3	451
+ -2	369
+ -1	293
+ -0.5	246
+ -0.2	216
+ -0.1	205
+ 0	195
+ 0.1	181
+ 0.2	167
+ 0.5	134
+ 1	103
+ 2	77
+ 3	66
+ 4	59
+ 5	55
+ 6	52
+ 8	48
+ 10	45
+ 12	43
+ 15	41
+ 20	38
+ 25	38


.MODEL MINT NMOS(Vto=2.140 Kp=8.2e+001 Nfs=560000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=29 Ibv=2.500000E-004 Rs=1E-6 Is=2.292e-13
+ N=1 M=0.58 VJ=0.69 Fc=0.5 Cjo=5.54e-10 Tt=1.4692e-08)

.ENDS

